US08227601B2
4-(2-Chloro-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylbenzonitrile
To a stirred solution of NaH (42.1 mg, 1.05 mmol) in dry NMP (2.5 mL) was added 4-hydroxy-3,5-dimethylbenzonitrile (154.7 mg, 1.05 mmol) and stirred at room temperature for 30 min under argon. The reaction mixture was added to a solution of 2,4-dichloro-5-methyl-5H-pyrrolo[3,2-d]pyrimidine (211.3 mg, 1.05 mmol) in dry NMP (2.7 mL) and heated at 160° C. for 16 h. After completion of the reaction, the resulting mixture was diluted with water and washed with EtOAc. The combined organic layers were washed with water, brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography, eluting with hexanes/ethyl acetate (3:1-1:1), to give the product as a light yellow solid (294 mg, 85%).

reactant | NaH | 1.05 mmol, 42.1 mg | [H-].[Na+]
reactant | 4-hydroxy-3,5-dimethylbenzonitrile | 1.05 mmol, 154.7 mg | OC1=C(C=C(C#N)C=C1C)C | C9H9NO
reactant | 2,4-dichloro-5-methyl-5H-pyrrolo[3,2-d]pyrimidine | 1.05 mmol, 211.3 mg | ClC=1N=C(C2=C(N1)C=CN2C)Cl | C7H5Cl2N3
solvent | NMP | 2.5 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 2.7 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-(2-Chloro-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylbenzonitrile | 294 mg, 85% | ClC=1N=C(C2=C(N1)C=CN2C)OC2=C(C=C(C#N)C=C2C)C | C16H13ClN4O
